### PR TITLE
[Merged by Bors] - feat(Data/Fin/Tuple/Basic): `snoc` & `insertNth` are injective

### PR DESCRIPTION
**Pull request by quangvdao**
This PR adds injectivity lemmas for `Fin.snoc` and `Fin.insertNth`, similar to those for `Fin.cons`. This is part of #19315 that is split off.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 1]
```diff
@@ -586,6 +586,22 @@ theorem update_snoc_last : update (snoc p x) (last n) z = snoc p z := by
   · rw [eq_last_of_not_lt h]
     simp
 
+/-- As a binary function, `Fin.snoc` is injective. -/
+theorem snoc_injective2 : Function.Injective2 (@snoc n α) := fun x y xₙ yₙ h ↦
+  ⟨funext fun i ↦ by simpa using congr_fun h (castSucc i), by simpa using congr_fun h (last n)⟩
+
+@[simp]
+theorem snoc_eq_snoc {x y : ∀ i : Fin n, α i.castSucc} {xₙ yₙ : α (last n)} :
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/Basic.lean:594]:
```suggestion
theorem snoc_inj {x y : ∀ i : Fin n, α i.castSucc} {xₙ yₙ : α (last n)} :
```

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 2]
```diff
@@ -791,6 +807,10 @@ lemma exists_iff_succAbove {P : Fin (n + 1) → Prop} (p : Fin (n + 1)) :
     · exact .inr ⟨_, hi⟩
   mpr := by rintro (h | ⟨i, hi⟩) <;> exact ⟨_, ‹_›⟩
 
+/-- Analogue of `Fin.eq_zero_or_eq_succ` for `succAbove`. -/
+theorem eq_self_or_eq_succAbove (p i : Fin (n + 1)) : i = p ∨ (∃ j, i = p.succAbove j) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/Basic.lean:811]:
```suggestion
theorem eq_self_or_eq_succAbove (p i : Fin (n + 1)) : i = p ∨ ∃ j, i = p.succAbove j :=
```

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 3]
```diff
@@ -847,6 +867,24 @@ theorem eq_insertNth_iff {p : Fin (n + 1)} {a : α p} {f : ∀ i, α (p.succAbov
     g = insertNth p a f ↔ g p = a ∧ removeNth p g = f := by
   simpa [eq_comm] using insertNth_eq_iff
 
+/-- As a binary function, `Fin.insertNth` is injective. -/
+theorem insertNth_injective2 {p : Fin (n + 1)} :
+    Function.Injective2 (@insertNth n α p) := fun xₚ yₚ x y h ↦
+  ⟨by simpa using congr_fun h p, funext fun i ↦ by simpa using congr_fun h (succAbove p i)⟩
+
+@[simp]
+theorem insertNth_eq_insertNth {p : Fin (n + 1)} {x y : ∀ i, α (succAbove p i)} {xₚ yₚ : α p} :
```
Comment (YaelDillies) [inline Mathlib/Data/Fin/Tuple/Basic.lean:876]:
```suggestion
theorem insertNth_inj {p : Fin (n + 1)} {x y : ∀ i, α (succAbove p i)} {xₚ yₚ : α p} :
```

File: Mathlib/Data/Fin/Tuple/Basic.lean (hunk 1 above)
Comment (quangvdao) [reply Mathlib/Data/Fin/Tuple/Basic.lean:594]: Shall I change the `cons_eq_cons` theorem into `cons_inj` as well?

Comment (YaelDillies) [reply Mathlib/Data/Fin/Tuple/Basic.lean:594]: Yes please

**Comment by quangvdao** [comment]
Woops, forgot to propagate the theorem name change `cons_eq_cons` => `cons_inj`. Should be building now.

**Comment by YaelDillies** [comment]
Can you please merge master to fix the messaging bot?

**Review by YaelDillies — APPROVED** [review]
maintainer delegate

**Comment by kim-em** [comment]
bors merge

**Comment by Ruben-VandeVelde** [comment]
Deprecated alias seems to have been missed?

**Comment by quangvdao** [comment]
Sorry, I can add it back in a new chore PR.
